US07005440B1
Ethyl (2,6-dimethyl-phenoxy)-acetate
The title compound is prepared using essentially the same procedure used in example 42 except using 2,6-dimethylphenol in place of 4-chloro-2,6-dimethylphenol and ethyl bromoacetate in place of bromoacetonitrile.

reactant | 2,6-dimethylphenol | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | Ethyl (2,6-dimethyl-phenoxy)-acetate | CC1=C(OCC(=O)OCC)C(=CC=C1)C | C12H16O3
